US07001917B2
Step 1. 2-[4-(3,5-Dimethyl-4-phenyl-1H-pyrazol-1-yl)phenyl]ethanol
The title compound was prepared according to the procedure described in step 1 of Example 1 from 2-(4-hydrazinophenyl)ethanol hydrochloride and 3-phenylpentane-2,4-dione: MS (ESI) m/z 293 [M+H]+, 1H-NMR (CDCl3) δ 7.45-7.27 (9H, m), 3.79 (2H, t, J=6.6 Hz), 2.87 (2H, t, J=6.6 Hz), 2.32 (3H, s), 2.26 (3H, s).

reactant | 2-(4-hydrazinophenyl)ethanol hydrochloride | Cl.N(N)C1=CC=C(C=C1)CCO
reactant | 3-phenylpentane-2,4-dione | C1(=CC=CC=C1)C(C(C)=O)C(C)=O | C11H12O2
product | 2-[4-(3,5-Dimethyl-4-phenyl-1H-pyrazol-1-yl)phenyl]ethanol | CC1=NN(C(=C1C1=CC=CC=C1)C)C1=CC=C(C=C1)CCO | C19H20N2O
